Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo w/ITP presents with bleeding. Pt is on chronic prednisone. 
She went to ___ and ran out of prednisone 6 days ago She 
began to have increased bruising and bleeding 5 days ago. 
Bleeding from vagina, urine, and ear, denies rectal bleeding. No 
CP, SOB or LH.
In ED pt c/o HA and had had Head CT, renal and pelvic US all 
without active bleeding. She was given 50mg prednisone per 
hematology recs.
On arrival to floor pt denies HA.

 
Past Medical History:
Hypertension
premature ovarian failure age ___, no periods since
ITP
- chronic prednisone, treated w/Rituxan, Nplate and IVIG in past
prior HBV exposure

Surg hx
appendectomy age ___
trigger finger release
ex-lap

 
Social History:
___
Family History:
no ITP
 
Physical Exam:
VS: 98.1  129/79  60  18  100%ra
PAIN: 0
GEN: nad
SKIN: multiple ecchymosis
HEENT: mmm
CV: rrr
CHEST: ctab
ABD: nabs, soft, nt/nd
EXT: no e/c/c
NEURO: follows commands, answering questions appropriately
 
Pertinent Results:
___ 05:20PM   GLUCOSE-105* UREA N-26* CREAT-1.1 SODIUM-139 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-24 ANION GAP-16
___ 05:20PM   ALT(SGPT)-12 AST(SGOT)-23 ALK PHOS-59 TOT 
BILI-0.1
___ 05:20PM   ALBUMIN-4.0
___ 05:20PM   WBC-4.8 RBC-3.82* HGB-11.1* HCT-33.4* MCV-88 
MCH-29.0 MCHC-33.1 RDW-14.5
___ 05:20PM   NEUTS-59.6 ___ MONOS-4.3 EOS-4.0 
BASOS-0.4
___ 05:20PM   PLT SMR-VERY LOW PLT COUNT-20*#
___ 05:34PM   LACTATE-1.1

Renal US wetread: No free fluid/hemorrhage. No stones or hydro. 
1.6 cm complex septated cyst in the upper pole of left kidney 
should be followed up as an outpatient. 

Pelvic US wetread: Normal uterus and remnant left ovary. No 
fluid collection or free fluid.

Head CT wetread: No acute process.
 
Brief Hospital Course:
ASSESSEMENT & PLAN: ___ yo w/ITP presents with bleeding after 
running out of prednisone.

Pt was seen by hematology and her prednisone was changed to 70mg 
daily.  She did well on this dose with an immediate decrease in 
bleeding and increase in platelet count.  She was clinically 
stable and therefore discharged to home.  She is continuing to 
follow with her hematologist and will be referred for 
splenectomy as an outpatient.

HTN: well controlled
- cont home HCTZ

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 10 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. PredniSONE 70 mg PO DAILY 
RX *prednisone 10 mg 7 tablet(s) by mouth once a day Disp #*210 
Tablet Refills:*0
3. Acetaminophen 650 mg PO Q6H:PRN pain 
4. Outpatient Lab Work
CBC
Dx- thrombocytopenia
5. Outpatient Lab Work
CBC
dx thrombocytopenia
6. Ranitidine 75 mg PO DAILY 
RX *ranitidine HCl 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
low platelets

 
Discharge Condition:
improved

 
Discharge Instructions:
continue to take prednisone 70mg once a day until you see the 
hematologist
you can take tylenol for your left sided pain, but avoid 
ibuprofen, naprosyn, aspirin
avoid activities that could result in spleen injury-- nothing 
more than brisk walking for now
 
Followup Instructions:
___